US07763639B2
4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-ISOPROPYL-PIPERIDINE
Preparation according to Example 1: 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-piperidine (0.02 g, 0.078 mmol), acetonitrile (2 ml), potassium carbonate (0.02 g, 0.14 mmol), 2-bromopropane (0.008 ml, 0.082 mmol). MS m/z (relative intensity, 70 eV) 299 (M+, 3), 285 (15), 284 (bp), 205 (6) 133 (4).

reactant | 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-piperidine | 0.078 mmol, 0.02 g | FC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C12H16FNO2S
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 0.082 mmol, 0.008 ml | BrC(C)C | C3H7Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-ISOPROPYL-PIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)C(C)C | C15H22FNO2S
